US06358980B1
WAY 173665 tert-butyl-4-({[4-(2-butynyloxy)phenyl]sulfanyl}methyl)-4-[(hydroxyamino)carbonyl]-1-piperidinecarboxylate
To a solution of 0.204 g (0.49 mmol) of 4-(4-But-2-ynyloxy-phenylsulfanylmethyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester, 0.079 g (0.58 mmol) of 1-hydroxybenzotriazole in 2.5 mL of DMF was added 0.112 g (0.84 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, and stirred at room temperature for 1 h. Then added 0.3 mL of 50% aqueous hydroxylamine and stirred for 18 h. The resulting mixture was diluted with EtOAc, washed with H2O, brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 1.5% MeOH/CH2Cl2 to provide 0.077 g (36%) of the desired product as a white solid. Electrospray Mass Spec: 435.2 (M+H)+

reactant | 4-(4-But-2-ynyloxy-phenylsulfanylmethyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 0.49 mmol, 0.204 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CSC1=CC=C(C=C1)OCC#CC | C22H29NO5S
reactant | 1-hydroxybenzotriazole | 0.58 mmol, 0.079 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.84 mmol, 0.112 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxylamine | 0.3 mL | NO | H3NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl-4-({[4-(2-butynyloxy)phenyl]sulfanyl}methyl)-4-[(hydroxyamino)carbonyl]-1-piperidinecarboxylate | 0.077 g, 36% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)NO)CSC1=CC=C(C=C1)OCC#CC | C22H30N2O5S
